US04772600
2-(4-Chlorophenyl)-N-methyl-N-(phenylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.0 g, 0.014 mole) and 1,1'-carbonyldiimidazole 2.27 g, 0.014 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hours. The benzylmethylamine (1.95 g, 0.016 mole) was added and the reaction mixture was allowed to stir at room temperature for 3 hours. The tetrahydrofuran was evaporated to dryness and the residue was partitioned between methylene chloride and saturated sodium bicarbonate. The aqueous layer was separated and extracted with methylene chloride (2×). The methylene chloride extracts were combined and extracted with water (1×). The methylene chloride layer was dried over magnesium sulfate, evaporated to dryness, and placed under high vacuum at room temperature overnight. The oil was dissolved in hot isopropyl alcohol, diluted with water, and seeded to produce crystalline needles, then refrigerated. The solid was collected by filtration, washed with water, and dried at 50° C. overnight under high vacuumm to give 4.08 g (75%) of title compound, mp 87°-89° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.014 mole, 2.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzylmethylamine | 0.016 mole, 1.95 g | C(C1=CC=CC=C1)CN | C8H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-methyl-N-(phenylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.08 g, 75% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CC1=CC=CC=C1)C | C22H19ClN4O
